US07786165B2
[4-({[4′-(2-ethoxyethoxy)-2′,6′-dimethylbiphenyl-3-yl]methyl}amino)phenoxy]acetic acid
To a solution of ethyl [4-({[4′-(2-ethoxyethoxy)-2′,6′-dimethylbiphenyl-3-yl]methyl}amino)phenoxy]acetate (0.37 g, 0.77 mmol) in a mixture of methanol (10 mL) and tetrahydrofuran (10 mL) was added an aqueous solution (5 mL) of potassium hydroxide (0.26 g, 3.94 mmol), and the mixture was stirred at room temperature for 18 hr. Water was added to the reaction mixture, and the mixture was weakly acidified with 10% aqueous citric acid solution and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained crystals were washed with diethyl ether-hexane to give the title compound as colorless prism crystals. yield 91%.

reactant | ethyl [4-({[4′-(2-ethoxyethoxy)-2′,6′-dimethylbiphenyl-3-yl]methyl}amino)phenoxy]acetate | 0.77 mmol, 0.37 g | C(C)OCCOC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)CNC1=CC=C(OCC(=O)OCC)C=C1)C | C29H35NO5
reactant | potassium hydroxide | 3.94 mmol, 5 mL, 0.26 g | [OH-].[K+]
reactant | Water | O | H2O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | 10 mL | CO | CH4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | [4-({[4′-(2-ethoxyethoxy)-2′,6′-dimethylbiphenyl-3-yl]methyl}amino)phenoxy]acetic acid | yield 91% | C(C)OCCOC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)CNC1=CC=C(OCC(=O)O)C=C1)C | C27H31NO5
